US07691882B2
N-(3-Iodo-pyridin-2-yl)-2,2-dimethyl-propionamide
To a mixture of 2,2-dimethyl-N-pyridin-2-yl-propionamide (3.0 g, 17 mmol) described in Manufacturing Example 39-1-1, N,N,N′,N′-tetramethylethylenediamine (6.3 mL, 42 mmol) and tetrahydrofuran (60 mL) was added dropwise n-butyl lithium (1.6 M n-hexane solution, 30 mL, 47 mmol) at −78° C., which was stirred overnight at 0° C. Iodine (6.8 g, 27 mmol) was added to the reaction mixture at −78° C., and stirred for 1.5 hours at 0° C. Water and saturated aqueous sodium thiosulfate solution were added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (2.9 g, 57%).

reactant | 2,2-dimethyl-N-pyridin-2-yl-propionamide | 17 mmol, 3.0 g | CC(C(=O)NC1=NC=CC=C1)(C)C | C10H14N2O
reactant | N,N,N′,N′-tetramethylethylenediamine | 42 mmol, 6.3 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 47 mmol, 1.6 M, 30 mL | C(CCC)[Li]
reactant | Iodine | 27 mmol, 6.8 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | Water | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | N-(3-Iodo-pyridin-2-yl)-2,2-dimethyl-propionamide | 2.9 g, 57% | IC=1C(=NC=CC1)NC(C(C)(C)C)=O | C10H13IN2O
